### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/Arithmetic): `typein (· < ·) = natCast` for `ℕ` and `Fin n`

### PR DESCRIPTION
**Pull request by SnirBroshi**
Co-authored-by: Matt Diamond <matt@matt-diamond.com>

---

[#Is there code for X? > &#96;Ordinal.typein = NatCast&#96;](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/.60Ordinal.2Etypein.20.3D.20NatCast.60/with/576057726)

The same statement but for ordinals exists as [Ordinal.typein_ordinal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Arithmetic.html#Ordinal.typein_ordinal).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -1067,6 +1067,16 @@ theorem lift_ofNat (n : ℕ) [n.AtLeastTwo] :
     lift.{u, v} ofNat(n) = OfNat.ofNat n :=
   lift_natCast n
 
+theorem typein_lt_eq_natCast (x : ℕ) : typein LT.lt x = x := by
+  have : Fintype <| Subtype (· < x) := Nat.fintypeIio x
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: It seems to me like this points to some missing API. Can we add the theorem `typein (· < ·) x = @type (Iio x) (· < ·)`? Its proof should probably be rfl.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -1067,6 +1067,16 @@ theorem lift_ofNat (n : ℕ) [n.AtLeastTwo] :
     lift.{u, v} ofNat(n) = OfNat.ofNat n :=
   lift_natCast n
 
+theorem typein_lt_eq_natCast (x : ℕ) : typein LT.lt x = x := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: `@[simp]`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -1067,6 +1067,16 @@ theorem lift_ofNat (n : ℕ) [n.AtLeastTwo] :
...
+  have : Fintype <| Subtype (· < x) := Nat.fintypeIio x
+  rw [← type_subrel, type_fintype, Nat.cast_inj]
+  nth_rw 2 [← Fintype.card_fin x]
+  exact Fintype.card_congr Fin.equivSubtype.symm
+
+theorem typein_lt_eq_natCast_val {n : ℕ} (x : Fin n) : typein LT.lt x = x := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: `@[simp]`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Also, what about the name `typein_lt_nat`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Also, what about the name `typein_lt_fin`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Added as `typein_lt_eq_type_Iio_lt`, but I'm not keen on making it a `simp` lemma since it would obfuscate the statements of `typein_ordinal`/`typein_lt_nat`/`typein_lt_fin`

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 4]
```diff
@@ -469,6 +469,10 @@ theorem typein_surjOn (r : α → α → Prop) [IsWellOrder α r] :
     Set.SurjOn (typein r) Set.univ (Set.Iio (type r)) :=
   (typein r).surjOn
 
+theorem typein_lt_eq_type_Iio_lt [Preorder α] [IsWellOrder α (· < ·)] (x : α)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean]: The `IsWellOrder (Iio x) (· < ·)` assumption is redundant.
```suggestion
theorem typein_lt_eq_type_Iio_lt [Preorder α] [WellFoundedLT α] (x : α)
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 5]
```diff
@@ -469,6 +469,10 @@ theorem typein_surjOn (r : α → α → Prop) [IsWellOrder α r] :
...
+    [IsWellOrder (Iio x) (· < ·)] : typein (· < ·) x = type (α := Iio x) (· < ·) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean]: Perhaps this should go the other way around? The LHS looks simpler than the RHS.

File: Mathlib/SetTheory/Ordinal/Basic.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: This causes errors. This change and removing the `Iio` hypothesis only work if we change `Preorder` to `LinearOrder`.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: Oh, of course. Can you change this to `LinearOrder`, then?

Comment (SnirBroshi) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: Okay, though I think it is odd to un-generalize a statement

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 6]
```diff
@@ -1076,6 +1092,10 @@ theorem lt_omega0 {o : Ordinal} : o < ω ↔ ∃ n : ℕ, o = n := by
 theorem nat_lt_omega0 (n : ℕ) : ↑n < ω :=
   lt_omega0.2 ⟨_, rfl⟩
 
+@[simp]
+theorem enum_lt_nat (x : ℕ) : enum LT.lt ⟨x, by simp⟩ = x := by
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1102]: (this has to be down here instead of next to its friends because it needs `natCast_lt_omega0` in the simp set)

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 7]
```diff
@@ -469,8 +469,8 @@ theorem typein_surjOn (r : α → α → Prop) [IsWellOrder α r] :
     Set.SurjOn (typein r) Set.univ (Set.Iio (type r)) :=
   (typein r).surjOn
 
-theorem type_Iio_lt [Preorder α] [IsWellOrder α (· < ·)] (x : α)
-    [IsWellOrder (Iio x) (· < ·)] : type (α := Iio x) (· < ·) = typein (· < ·) x :=
+theorem type_Iio_lt [LinearOrder α] [WellFoundedLT α] (x : α) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean:456]: Can this be made into a `simp` lemma? (Or does anything break if you try?)

**Review by vihdzp — APPROVED** [review]
Other than that question, LGTM.

File: Mathlib/SetTheory/Ordinal/Basic.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: There's no generality being lost here. `IsWellOrder α (· < ·)` already implies that `α` is a well-order, all the `LinearOrder` instance does is make all of the associated data (≤, max, min, decidability instances) available.

File: Mathlib/SetTheory/Ordinal/Basic.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/SetTheory/Ordinal/Basic.lean:456]: Oh that makes sense, https://github.com/leanprover-community/mathlib4/pull/35840#discussion_r2865371282 is no longer relevant since we flipped the equality. Done

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
